US04699905
7(a) 2-t-Butoxycarbonylamino-1-phenylethanol
28 g of t-butoxycarbonyl azide were added at room temperature to 200 ml of a methylene chloride solution containing 25.3 g of DL-2-amino-1-phenylethanol and 45 ml of triethylamine, and the reaction mixture was allowed to stand overnight at room temperature. The reaction mixture was then condensed by evaporation under reduced pressure, and water and diisopropyl ether were added to the condensate. The mixture was thoroughly stirred. yielding the title compound in the form of insoluble crystals melting at 123°-124° C. in a yield of 20.6 g. These crystals were filtered off. The organic layer in the filtrate was separated and washed with an aqueous solution of potassium hydrogen sulfate and with an aqueous solution of sodium bicarbonate. The resulting solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The crystals of the title compound in the residue were collected by filtration and washed with a mixture of diisopropyl ether and petroleum ether, yielding a further 18.7 g.

reactant | t-butoxycarbonyl azide | 28 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | DL-2-amino-1-phenylethanol | 25.3 g | C1=CC=C(C=C1)C(CN)O | C8H11NO
solvent | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
product | 2-t-Butoxycarbonylamino-1-phenylethanol | C(C)(C)(C)OC(=O)NCC(O)C1=CC=CC=C1 | C13H19NO3
